US04695581
0.8 g of 5-hydroxy-2-(4-hydroxy-3,5-dimethylphenyl)-3-methylindole was dissolved in 4 ml of pyridine, and under ice cooling, 0.26 g of acetyl chloride was added. The mixture was stirred at 40° C. for 1 hour. The reaction mixture was poured into ice water and extracted with ethyl acetate. The extract was washed with water, 2N hydrochloric acid and water, and purified by silica gel column chromatography to give 5-acetyloxy-2-(4-hydroxy-3,5-dimethylphenyl)-5-methylindole.

reactant | 5-hydroxy-2-(4-hydroxy-3,5-dimethylphenyl)-3-methylindole | 0.8 g | OC=1C=C2C(=C(NC2=CC1)C1=CC(=C(C(=C1)C)O)C)C | C17H17NO2
reactant | acetyl chloride | 0.26 g | C(C)(=O)Cl | C2H3ClO
reactant | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
product | 5-acetyloxy-2-(4-hydroxy-3,5-dimethylphenyl)-5-methylindole | C(C)(=O)OC1(C=C2C=C(N=C2C=C1)C1=CC(=C(C(=C1)C)O)C)C | C19H19NO3
